US06156700
Preparation of {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}(methylsulfonyl)carbamic acid, tert-butyl ester
tert-Butyl(methylsulfonyl)carbamate (1.52 g, 0.00780 mol) is added to a mixture of sodium hydride (60%, 0.312 g, 0.00780 mol) and tetrahydrofuran at 0° C. The mixture is allowed to come to room temperature. A solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (3.00 g, 0.00714 mol) in dimethyl sulfoxide is added dropwise. The resultant mixture is stirred overnight at room temperature, poured into dilute hydrochloric acid, and extracted with methylene chloride. The combined organic layers are washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resultant residue is chromatographed on silica gel with ether:methylene chloride to give the title compound as a white solid (3.00 g, 78.7%, mp 109-111° C.) which is identified by NMR spectral analysis.

reactant | tert-Butyl(methylsulfonyl)carbamate | 0.00780 mol, 1.52 g | C(C)(C)(C)OC(NS(=O)(=O)C)=O | C6H13NO4S
reactant | sodium hydride | 0.00780 mol, 0.312 g | [H-].[Na+]
reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00714 mol, 3.00 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}(methylsulfonyl)carbamic acid, tert-butyl ester | 3.00 g, 78.7% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CN(C(OC(C)(C)C)=O)S(=O)(=O)C)C1)=O | C20H21F3N4O6S2
